US08685969B2
2. 3-Amino-2-methylbenzonitrile
To a mixture of 2-methyl-3-nitrobenzonitrile (5.50 g, 33.9 mmol) and ammonium chloride (25.4 g, 475 mmol) in tetrahydrofuran (100 mL) and methanol (100 mL) at 0° C. was added zinc dust (31.1 g, 475 mmol) in portions. The mixture was stirred at room temperature for 2 hr. The insoluble material was removed by suction filtration through CELITE®, and the filtrate was concentrated under vacuum. The residue was diluted with water (50 mL) and extracted with CH2Cl2 (4×100 mL). The combined extract was dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (4.19 g, 31.7 mmol, 93% yield) as a white solid.

reactant | 2-methyl-3-nitrobenzonitrile | 33.9 mmol, 5.50 g | CC1=C(C#N)C=CC=C1[N+](=O)[O-] | C8H6N2O2
reactant | ammonium chloride | 475 mmol, 25.4 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
catalyst | zinc | 475 mmol, 31.1 g | [Zn] | Zn
product | 3-Amino-2-methylbenzonitrile | 31.7 mmol, 4.19 g, 93% yield | NC=1C(=C(C#N)C=CC1)C | C8H8N2
